US04873249
A mixture of 200 g (1.20 mole) of 3,4-dimethoxy-benzaldehyde, 150 g (1.75 mole) of β-methoxy-propinitrile, 260 ml of methanol and 10 g of a 55% methanolic potassium hydroxide solution is stirred at 60°-62° C. for 8 hours, whereupon the reaction mixture is cooled to 30° C., and 170 g of a 55% methanolic potassium hydroxide solution are added dropwise. The reaction mixture is stirred for 5 hours and diluted with 1000 ml of water. The precipitated crystalline product is filtered, washed with methanol and water. Thus 280 g of α-(3,4-dimethoxy-benzal)-β-methoxy-propionitrile are obtained, yield 85%, mp.: 82°-83° C.

reactant | 3,4-dimethoxy-benzaldehyde | 1.20 mole, 200 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | β-methoxy-propinitrile | 1.75 mole, 150 g | COCCC#N | C4H7NO
reactant | methanol | 260 ml | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 1000 ml | O | H2O
product | α-(3,4-dimethoxy-benzal)-β-methoxy-propionitrile | 280 g, yield 85% | COC=1C=C(C=C(C#N)COC)C=CC1OC | C13H15NO3
